US09403835B2
Step 2: [2-(4-amino-piperidin-1-ylmethyl)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone, dihydrochloride salt
A 4N solution of HCl in dioxane (1.0 mL, 4 mmol) was added to a solution of {1-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-benzyl]-piperidin-4-yl}-carbamic acid tert-butyl ester (136 mg, 0.24 mmol) in dioxane (1.0 mL). After 3 hours of stirring at RT, the precipitate was filtered off and washed with dioxane (2×). The solid was dissolved in water (2 ml) and lyophilized to give the title compound as an off-white powder (82 mg, 64%). 1H NMR (300 MHz, DMSO-d6) δ 10.97-10.60 (m, 1H), 8.63-8.24 (m, 3H), 8.15-7.98 (m, 1H), 7.76-7.41 (m, 3H), 5.08-4.86 (m, 2H), 4.73-4.48 (m, 2H), 4.44-4.17 (m, 2H), 3.60-2.96 (m, 5H), 2.85 (s, 1.5H), 2.81 (s, 1.5H), 2.63 (s, 1.5H), 2.56 (s, 1.5H), 2.23-1.78 (m, 4H). HPLC (max plot) 96.1%, Rt 2.23 min. UPLC/MS: (MS+) 439.4 ([M+H]+).

reactant | HCl | Cl | ClH
reactant | {1-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-benzyl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.24 mmol, 136 mg | C(C)(C)(C)OC(NC1CCN(CC1)CC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1)=O | C28H35ClN6O3
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mmol, 1.0 mL | O1CCOCC1 | C4H8O2
product | [2-(4-amino-piperidin-1-ylmethyl)-phenyl]-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-methanone, dihydrochloride salt | 82 mg, 64% | Cl.Cl.NC1CCN(CC1)CC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | InChI=1S/C23H27ClN6O.2ClH/c1-14-21(24)15(2)30-22(26-14)19-12-29(13-20(19)27-30)23(31)18-6-4-3-5-16(18)11-28-9-7-17(25)8-10-28;;/h3-6,17H,7-13,25H2,1-2H3;2*1H
